US07977371B2
2-Aminocarbonylamino-5-(4-ethylphenyl)pyrrole-3-carboxamide (Compound No. 12-1)
10% Palladium on activated carbon (6 mg) was added to a solution of 2-aminocarbonylamino-5-(4-vinylphenyl)pyrrole-3-carboxamide (Compound No. 9-1, 16 mg, 0.059 mmol) in methanol (2 mL) and the mixture was stirred at room temperature for 4.5 hours under hydrogen gas atmosphere. After the reaction solution was filtered, the filterate was concentrated in vacuo. The obtained solid was washed with diethyl ether (2 mL) and dried under reduced pressure to give the target compound (10 mg) as a colorless solid (Yield 62%).

reactant | 2-aminocarbonylamino-5-(4-vinylphenyl)pyrrole-3-carboxamide | 0.059 mmol, 16 mg | NC(=O)NC=1NC(=CC1C(=O)N)C1=CC=C(C=C1)C=C | C14H14N4O2
catalyst | Palladium on activated carbon | 6 mg | [Pd] | Pd
solvent | methanol | 2 mL | CO | CH4O
product | 2-Aminocarbonylamino-5-(4-ethylphenyl)pyrrole-3-carboxamide | 10 mg, Yield 62% | NC(=O)NC=1NC(=CC1C(=O)N)C1=CC=C(C=C1)CC | C14H16N4O2
